US07504513B2
2-(5,6-Dimethoxy-benzoimidazol-1-yl)-4-phenyl-thiazole-5-carboxylic acid amide was prepared from 2-(5,6-Dimethoxy-benzoimidazol-1-yl)-4-phenyl-thiazole-5-carboxylic acid ethyl ester (80 mg, 0.20 mmol) and ammonia in ethanol (29 molar) as described above in the general amide formation procedure. The product was isolated by preparative HPCL: 7.7 mg, 36% yield. 1H-NMR (DMSO-D6) 8.78 (s, 1H); 7.80-7.90 (m, 4H); 7.789s, 1H); 7.40-7.55 (m, 3H); 7.38 (s, 1H); 3.84 (s, 3H); 3.83 (s, 3H). MS M/z 381 (M+1).

reactant | 2-(5,6-Dimethoxy-benzoimidazol-1-yl)-4-phenyl-thiazole-5-carboxylic acid ethyl ester | 0.20 mmol, 80 mg | C(C)OC(=O)C1=C(N=C(S1)N1C=NC2=C1C=C(C(=C2)OC)OC)C2=CC=CC=C2 | C21H19N3O4S
reactant | ammonia | N | H3N
solvent | ethanol | 29 molar | C(C)O | C2H6O
product | 2-(5,6-Dimethoxy-benzoimidazol-1-yl)-4-phenyl-thiazole-5-carboxylic acid amide | 36% yield | COC1=CC2=C(N(C=N2)C=2SC(=C(N2)C2=CC=CC=C2)C(=O)N)C=C1OC | C19H16N4O3S
